US05455262
The above described procedure was repeated using 5.65 g of Cbz-Phe-Ala-OH and excess anhydrous ammonia in THF to obtain 7.16 g of crude Cbz-Phe-Ala-NH2. The crude product was then subjected to hydrogenolysis in MeOH over 10% Pd/C to afford 3.42 g (95% yield) of Phe-Ala-NH2 as a yellow solid after flash chromatography (EtOAc-MeOH, 10:1). Characteristic analytical data are as follows: mp 95°-97° C.; RF 0.10 (1:2 MeOH:EtOAc); 1H NMR (300 MHz, CDCl3) δ7.80-7.72 (br, 1H, H--N), 7.35-7.18 (m, 5H, Ph), 6.58-6.45 (br, 1H, H--N), 5.70-5.60 (br, 1H, H--N), 4.46 (quint, J=7 Hz, 1H, Hα-(Ala)), 3.62 (dd, J=4, 9 Hz, 1H, Hα-(Phe)), 3.21 (dd, J=4, 11 Hz, 1H, Hβ-(Phe)), 2.72 (dd, J=9, 11 Hz, 1H, Hβ-(Phe)), 1.35 (d, J=7 Hz, 3H, CH3); 13C NMR (75 MHz, CDCl3) δ175.3 (C=O), 174.8 (C=O), 137.6 (C-Ph), 129.4 (CH-Ph), 128.8 (CH-Ph), 127.0 (CH-Ph), 56.0 (CH-α), 48.0 (CH-α), 40.5 (CH2), 17.7 (CH3); [α]D25 -25.6° (C=1.90, EtOH).

reactant | Cbz-Phe-Ala-OH | 5.65 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C20H22N2O5
reactant | ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | Cbz-Phe-Ala-NH2 | 7.16 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C20H23N3O4
